* File: and.pex.netlist.pex
* Created: Mon Apr 15 15:43:41 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND_VDD 1 4 5 26
c0 31 0 32.18f
c1 30 0 32.18f
c2 29 0 1.45409p
c3 20 0 74.448f
c4 16 0 234.514f
c5 13 0 74.448f
c6 9 0 234.514f
r7 26 29 0.0138667
r8 23 26 0.0402667
r9 20 29 0.0983827
r10 20 31 0.2125
r11 14 31 0.0461878
r12 14 16 0.104615
r13 13 23 0.0983827
r14 13 30 0.2125
r15 7 30 0.0465316
r16 7 9 0.104615
r17 4 33 0.921778
r18 1 5 1.03022
r19 1 33 0.108444
r20 1 26 0.354773
r21 1 16 3.8825
r22 1 9 3.8825
.ends

.subckt PM_AND_2 6 10 28 30 48 49 54 67 69 78
c8 88 0 135f
c9 83 0 133.141f
c10 78 0 86.815f
c11 73 0 88.41f
c12 70 0 61.44f
c13 69 0 49.224f
c14 68 0 61.44f
c15 67 0 182.252f
c16 66 0 98.208f
c17 63 0 46.64f
c18 58 0 234.514f
c19 56 0 32.18f
c20 54 0 83.0625f
c21 53 0 28.16f
c22 52 0 36.608f
c23 51 0 104.368f
c24 50 0 32.18f
c25 49 0 28.08f
c26 48 0 40.892f
c27 45 0 171.274f
c28 42 0 223.168f
c29 40 0 100.848f
c30 38 0 28.16f
c31 37 0 91.168f
c32 36 0 38.368f
c33 34 0 173.44f
c34 33 0 173.44f
c35 26 0 50.85f
c36 22 0 84.75f
c37 19 0 1.86405p
c38 16 0 69.608f
c39 15 0 225.548f
c40 12 0 96.728f
c41 10 0 681.734f
c42 6 0 378.894f
c43 3 0 40.228f
r44 78 121 0.017931
r45 69 70 0.146
r46 67 68 0.534
r47 61 63 0.0525
r48 56 66 0.0517569
r49 56 58 0.209231
r50 54 65 0.101866
r51 54 66 0.28
r52 52 121 0.0276608
r53 52 53 0.105
r54 50 51 0.2975
r55 48 65 0.0174182
r56 48 49 0.1175
r57 43 50 0.0458784
r58 43 45 0.104615
r59 42 63 0.0046983
r60 41 53 0.0446983
r61 41 42 0.635
r62 40 49 0.0446983
r63 39 61 0.0046983
r64 39 40 0.2875
r65 37 51 0.0446983
r66 37 38 0.18
r67 36 73 0.0559551
r68 35 38 0.0446983
r69 35 36 0.11
r70 34 88 11.07
r71 34 67 0.0477743
r72 34 88 0.68
r73 33 83 11.07
r74 33 69 0.0477743
r75 33 83 0.68
r76 32 70 0.0477743
r77 32 78 0.68
r78 32 58 3.8825
r79 31 68 0.0477743
r80 31 73 0.68
r81 31 45 5.20333
r82 30 32 1.03022
r83 28 31 1.06083
r84 24 26 7.30769
r85 20 22 18.8462
r86 18 19 634.615
r87 17 34 4.63979
r88 16 18 5.58729
r89 16 17 13.8462
r90 15 26 0.587288
r91 14 22 0.587288
r92 14 15 76.9231
r93 13 33 4.63979
r94 12 19 5.58729
r95 12 13 23.0769
r96 8 24 0.587288
r97 8 10 161.923
r98 4 34 8.27089
r99 4 6 87.6923
r100 3 20 0.587288
r101 2 33 8.27089
r102 2 3 13.8462
.ends

.subckt PM_AND_GROUND 1 2 8
c0 22 0 91.168f
c1 21 0 706.74f
c2 16 0 171.274f
c3 14 0 32.18f
c4 6 0 759.84f
r5 24 27 0.267592
r6 14 22 0.0517569
r7 14 16 0.104615
r8 12 21 0.0648174
r9 12 22 0.26
r10 6 21 0.00419427
r11 6 8 0.00346667
r12 2 27 0.215104
r13 2 16 5.20333
r14 2 8 0.352955
r15 1 24 3.86097
.ends

.subckt PM_AND_Y 1 3 36
c0 49 0 75.61f
c1 36 0 69.6f
c2 30 0 66.88f
c3 26 0 74.8f
c4 23 0 113.168f
c5 19 0 77.16f
c6 17 0 246.928f
c7 15 0 1.64261p
c8 11 0 105.248f
c9 7 0 234.514f
c10 5 0 32.18f
c11 4 0 105.917f
r12 28 30 0.11
r13 24 26 0.1325
r14 19 22 0.0517569
r15 17 30 0.0046983
r16 16 49 0.0559551
r17 16 17 0.7025
r18 15 49 0.0559551
r19 14 26 0.0046983
r20 14 15 4.6675
r21 12 28 0.0046983
r22 12 23 0.3225
r23 11 24 0.0046983
r24 11 22 0.3
r25 5 23 0.0517569
r26 5 7 0.209231
r27 4 49 0.68
r28 4 36 0.68
r29 4 19 15.61
r30 4 7 3.8825
r31 3 4 0.921778
r32 1 4 1.89833
.ends

.subckt PM_AND_A 4 10 14 25
c5 44 0 131.843f
c6 25 0 69.6f
c7 20 0 134.948f
c8 17 0 232.48f
c9 16 0 102.52f
c10 14 0 2.09084p
c11 10 0 490.764f
c12 7 0 105f
c13 6 0 70.32f
c14 5 0 29.38f
c15 4 0 112.548f
c16 3 0 804.108f
r17 17 44 0.68
r18 17 35 2
r19 17 44 11.07
r20 17 25 0.68
r21 16 20 11.07
r22 16 20 0.68
r23 12 35 4.20996
r24 12 14 647.308
r25 8 10 96.9231
r26 7 16 6.11371
r27 6 35 7.85253
r28 6 7 14.75
r29 4 8 5.58729
r30 4 5 28.4615
r31 3 5 5.58729
r32 2 16 4.63979
r33 2 3 273.846
.ends

.subckt PM_AND_B 3 6 12 26
c3 37 0 133.713f
c4 34 0 1.38606p
c5 26 0 69.6f
c6 24 0 214.64f
c7 22 0 61.02f
c8 17 0 170.178f
c9 15 0 29.38f
c10 14 0 87.688f
c11 12 0 948.414f
c12 9 0 29.38f
c13 8 0 86.558f
c14 6 0 679.474f
c15 3 0 141.928f
r16 24 37 0.68
r17 24 34 8.27089
r18 24 37 11.07
r19 24 26 0.68
r20 20 22 10.7692
r21 18 34 471.923
r22 16 24 8.27089
r23 16 17 58.0769
r24 14 18 5.58729
r25 14 15 20
r26 10 22 0.587288
r27 10 12 252.692
r28 8 17 5.58729
r29 8 9 19.6154
r30 4 15 5.58729
r31 4 6 166.923
r32 3 20 0.587288
r33 2 9 5.58729
r34 2 3 48.4615
.ends

