* File: and3.pex.netlist.pex
* Created: Mon Apr 15 16:27:06 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND3_X0_6 6 10 28 30
r0 78 121 0.017931
r1 69 70 0.146
r2 67 68 0.534
r3 61 63 0.0525
r4 56 66 0.0517569
r5 56 58 0.209231
r6 54 65 0.101866
r7 54 66 0.28
r8 52 121 0.0276608
r9 52 53 0.105
r10 50 51 0.2975
r11 48 65 0.0174182
r12 48 49 0.1175
r13 43 50 0.0458784
r14 43 45 0.104615
r15 42 63 0.0046983
r16 41 53 0.0446983
r17 41 42 0.635
r18 40 49 0.0446983
r19 39 61 0.0046983
r20 39 40 0.2875
r21 37 51 0.0446983
r22 37 38 0.18
r23 36 73 0.0559551
r24 35 38 0.0446983
r25 35 36 0.11
r26 34 88 11.07
r27 34 67 0.0477743
r28 34 88 0.68
r29 33 83 11.07
r30 33 69 0.0477743
r31 33 83 0.68
r32 32 70 0.0477743
r33 32 78 0.68
r34 32 58 3.8825
r35 31 68 0.0477743
r36 31 73 0.68
r37 31 45 5.20333
r38 30 32 1.03022
r39 28 31 1.06083
r40 24 26 7.30769
r41 20 22 18.8462
r42 18 19 634.615
r43 17 34 4.63979
r44 16 18 5.58729
r45 16 17 13.8462
r46 15 26 0.587288
r47 14 22 0.587288
r48 14 15 76.9231
r49 13 33 4.63979
r50 12 19 5.58729
r51 12 13 23.0769
r52 8 24 0.587288
r53 8 10 161.923
r54 4 34 8.27089
r55 4 6 87.6923
r56 3 20 0.587288
r57 2 33 8.27089
r58 2 3 13.8462
.ends

.subckt PM_AND3_X1_6 6 10 28 30
r0 78 121 0.017931
r1 69 70 0.146
r2 67 68 0.534
r3 61 63 0.0525
r4 56 66 0.0517569
r5 56 58 0.209231
r6 54 65 0.101866
r7 54 66 0.28
r8 52 121 0.0276608
r9 52 53 0.105
r10 50 51 0.2975
r11 48 65 0.0174182
r12 48 49 0.1175
r13 43 50 0.0458784
r14 43 45 0.104615
r15 42 63 0.0046983
r16 41 53 0.0446983
r17 41 42 0.635
r18 40 49 0.0446983
r19 39 61 0.0046983
r20 39 40 0.2875
r21 37 51 0.0446983
r22 37 38 0.18
r23 36 73 0.0559551
r24 35 38 0.0446983
r25 35 36 0.11
r26 34 88 11.07
r27 34 67 0.0477743
r28 34 88 0.68
r29 33 83 11.07
r30 33 69 0.0477743
r31 33 83 0.68
r32 32 70 0.0477743
r33 32 78 0.68
r34 32 58 3.8825
r35 31 68 0.0477743
r36 31 73 0.68
r37 31 45 5.20333
r38 30 32 1.03022
r39 28 31 1.06083
r40 24 26 7.30769
r41 20 22 18.8462
r42 18 19 634.615
r43 17 34 4.63979
r44 16 18 5.58729
r45 16 17 13.8462
r46 15 26 0.587288
r47 14 22 0.587288
r48 14 15 76.9231
r49 13 33 4.63979
r50 12 19 5.58729
r51 12 13 23.0769
r52 8 24 0.587288
r53 8 10 161.923
r54 4 34 8.27089
r55 4 6 87.6923
r56 3 20 0.587288
r57 2 33 8.27089
r58 2 3 13.8462
.ends

.subckt PM_AND3_VDD 4 5 36 39 40 99
r0 101 110 0.0983827
r1 100 108 0.0983827
r2 97 107 0.00426667
r3 97 99 0.0885333
r4 96 108 0.00426667
r5 96 99 0.0621333
r6 95 107 0.0983827
r7 94 104 0.0983827
r8 57 101 0.2125
r9 56 100 0.2125
r10 54 110 0.0138667
r11 54 108 0.0402667
r12 48 57 0.0461878
r13 48 50 0.104615
r14 42 56 0.0465316
r15 42 44 0.104615
r16 41 59 0.108444
r17 41 54 0.354773
r18 41 50 3.8825
r19 41 44 3.8825
r20 40 41 1.03022
r21 39 59 0.921778
r22 36 41 8.69695
r23 36 41 8.70565
r24 24 41 0.108444
r25 22 95 0.2125
r26 21 94 0.2125
r27 19 107 0.0138667
r28 19 104 0.0402667
r29 19 41 0.354773
r30 15 41 3.8825
r31 13 22 0.0461878
r32 13 15 0.104615
r33 9 41 3.8825
r34 7 21 0.0465316
r35 7 9 0.104615
r36 5 41 1.03022
r37 4 24 0.921778
.ends

.subckt PM_AND3_GROUND 1 2 24 73
r0 75 79 0.0648174
r1 71 78 0.00419427
r2 71 73 0.0946667
r3 70 79 0.00419427
r4 69 78 0.0648174
r5 67 78 0.00419427
r6 39 42 0.267592
r7 37 75 0.26
r8 32 37 0.0517569
r9 32 34 0.104615
r10 29 70 0.00346667
r11 29 73 0.106667
r12 24 39 3.86097
r13 16 19 0.267592
r14 14 69 0.26
r15 9 14 0.0517569
r16 9 11 0.104615
r17 6 67 0.00346667
r18 5 42 0.215104
r19 5 34 5.20333
r20 5 29 0.352955
r21 5 19 0.215104
r22 5 11 5.20333
r23 5 6 0.352955
r24 2 5 9.50174
r25 2 5 9.51125
r26 1 16 3.86097
.ends

.subckt PM_AND3_A 10 14 51
r0 49 51 0.36
r1 24 49 0.0477743
r2 17 40 0.68
r3 17 31 2
r4 17 40 11.07
r5 17 24 0.68
r6 16 20 11.07
r7 16 20 0.68
r8 12 31 4.20996
r9 12 14 647.308
r10 8 10 96.9231
r11 7 16 6.11371
r12 6 31 7.85253
r13 6 7 14.75
r14 4 8 5.58729
r15 4 5 28.4615
r16 3 5 5.58729
r17 2 16 4.63979
r18 2 3 273.846
.ends

.subckt PM_AND3_B 6 12 44
r0 42 44 0.454
r1 25 42 0.0477743
r2 24 33 0.68
r3 24 30 8.27089
r4 24 33 11.07
r5 24 25 0.68
r6 20 22 10.7692
r7 18 30 471.923
r8 16 24 8.27089
r9 16 17 58.0769
r10 14 18 5.58729
r11 14 15 20
r12 10 22 0.587288
r13 10 12 252.692
r14 8 17 5.58729
r15 8 9 19.6154
r16 4 15 5.58729
r17 4 6 166.923
r18 3 20 0.587288
r19 2 9 5.58729
r20 2 3 48.4615
.ends

.subckt PM_AND3_5 1 3 60 64
r0 102 103 0.748
r1 100 103 0.0446983
r2 100 106 0.962
r3 74 102 0.0477743
r4 67 90 0.68
r5 67 81 2
r6 67 90 11.07
r7 67 74 0.68
r8 66 70 11.07
r9 66 70 0.68
r10 62 81 4.20996
r11 62 64 647.308
r12 58 60 96.9231
r13 57 66 6.11371
r14 56 81 7.85253
r15 56 57 14.75
r16 54 58 5.58729
r17 54 55 28.4615
r18 53 55 5.58729
r19 52 66 4.63979
r20 52 53 273.846
r21 32 106 0.0477743
r22 28 30 0.11
r23 24 26 0.1325
r24 19 22 0.0517569
r25 17 30 0.0046983
r26 16 45 0.0559551
r27 16 17 0.7025
r28 15 45 0.0559551
r29 14 26 0.0046983
r30 14 15 4.6675
r31 12 28 0.0046983
r32 12 23 0.3225
r33 11 24 0.0046983
r34 11 22 0.3
r35 5 23 0.0517569
r36 5 7 0.209231
r37 4 45 0.68
r38 4 32 0.68
r39 4 19 15.61
r40 4 7 3.8825
r41 3 4 0.921778
r42 1 4 1.89833
.ends

.subckt PM_AND3_C 6 12 44
r0 42 44 1.366
r1 25 42 0.0477743
r2 24 33 0.68
r3 24 30 8.27089
r4 24 33 11.07
r5 24 25 0.68
r6 20 22 10.7692
r7 18 30 471.923
r8 16 24 8.27089
r9 16 17 58.0769
r10 14 18 5.58729
r11 14 15 20
r12 10 22 0.587288
r13 10 12 252.692
r14 8 17 5.58729
r15 8 9 19.6154
r16 4 15 5.58729
r17 4 6 166.923
r18 3 20 0.587288
r19 2 9 5.58729
r20 2 3 48.4615
.ends

.subckt PM_AND3_Y 1 3 54
r0 52 54 0.616
r1 32 52 0.0477743
r2 28 30 0.11
r3 24 26 0.1325
r4 19 22 0.0517569
r5 17 30 0.0046983
r6 16 45 0.0559551
r7 16 17 0.7025
r8 15 45 0.0559551
r9 14 26 0.0046983
r10 14 15 4.6675
r11 12 28 0.0046983
r12 12 23 0.3225
r13 11 24 0.0046983
r14 11 22 0.3
r15 5 23 0.0517569
r16 5 7 0.209231
r17 4 45 0.68
r18 4 32 0.68
r19 4 19 15.61
r20 4 7 3.8825
r21 3 4 0.921778
r22 1 4 1.89833
.ends

